US06441189B1
4-(trifluoromethoxy)phenylboronic acid
A solution of 1-bromo-4-(trifluoromethoxy)benzene (1.69 kg) and triisopropyl borate (1.46 kg) in THF (6.75 L) at −70° C. was treated with 2.25 M butyllithium in hexanes (3.27 L) over 2.3 hours, stirred for 10 minutes, treated with 6M HCl (1.52 L) over 50 minutes, stirred for 18 hours at room temperature, and poured into a mixture of heptane (8.43 L) and 20% (w/w) sodium chloride (8.44 kg). This mixture was stirred for 10 minutes and separated into an aqueous fraction and an organic fraction. The organic fraction was concentrated to provide a white paste. The paste was dried under vacuum (100 mmHg) at ambient temperature with a nitrogen bleed for 2 days then at 40-50° C. for 18 hours to provide 1.306 kg (90.4%) of the desired product as a solid. 1H NMR (CDCl3, 300 MHz) δ7.24-7.19 (m, 2H), 8.14-8.10 (m, 2H) with additional absorptions at 7.19-7.15 (m, 2H) and 8.04-8.00 (m, 2H) corresponding to the cyclic boronic acid trimer.

reactant | 1-bromo-4-(trifluoromethoxy)benzene | 1.69 kg | BrC1=CC=C(C=C1)OC(F)(F)F | C7H4BrF3O
reactant | triisopropyl borate | 1.46 kg | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | butyllithium | 2.25 M | C(CCC)[Li]
reactant | HCl | 6M, 1.52 L | Cl | ClH
reactant | sodium chloride | 8.44 kg | [Cl-].[Na+]
solvent | THF | 6.75 L | C1CCOC1 | C4H8O
solvent | heptane | 8.43 L | CCCCCCC | C7H16
product | 4-(trifluoromethoxy)phenylboronic acid | 1.306 kg, 90.4% | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
